US06416627B1
2,4-dihydroxybenzophenone;
2,2′,4,4′-tetrahydroxy-5,5′-disulfobenzophenone, disodium salt;

reactant | 2,2′,4,4′-tetrahydroxy-5,5′-disulfobenzophenone | OC1=C(C(=O)C2=C(C=C(C(=C2)S(=O)(=O)O)O)O)C=C(C(=C1)O)S(=O)(=O)O | C13H10O11S2
reactant | disodium | [Na][Na] | 2Na
product | 2,4-dihydroxybenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
